US04859684
A mixture of 2.64 parts of 4-[(1H-imidazol-1-yl)phenylmethyl]-1,2-benzenediamine, 50 parts of trimethoxymethane and 1.2 parts of acetic acid was stirred and refluxed for 8 hours. The reaction mixture was evaporated in vacuo. The residue was dissolved in dilute hydrochloric acid. The solution was treated with ammonia and the product was extracted with dichloromethane. The extract was dried, filtered and evaporated. The residue was purified by column chromatography over silica gel using a mixture of trichloromethane, methanol and methanol, saturated with ammonia, (90:5:5 by volume) as eluent. The pure fractions were collected and the eluent was evaporated. The solid residue was washed with 2-propanone, yielding 1.8 parts (65%) of 5-[(1H-imidazol-1-yl)phenylmethyl]-1H-benzimidazole; mp. 186.2° C. (compound 111).

reactant | 4-[(1H-imidazol-1-yl)phenylmethyl]-1,2-benzenediamine | N1(C=NC=C1)C(C=1C=C(C(=CC1)N)N)C1=CC=CC=C1 | C16H16N4
reactant | trimethoxymethane | COC(OC)OC | C4H10O3
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-[(1H-imidazol-1-yl)phenylmethyl]-1H-benzimidazole | 65% | N1(C=NC=C1)C(C1=CC2=C(NC=N2)C=C1)C1=CC=CC=C1 | C17H14N4
